US05145937
Anhydrous aluminum chloride (80.0 g, 0.60 mol) was added to a stirred solution of terephthaloyl chloride (50.8 g, 0.25 mol) dissolved in fluorobenzene (235 ml, 2.5 mol) over a 10-15 minute period. The mixture was stirred at room temperature for one hour and then maintained at 70°-80° C. for four hours. After cooling, the reaction mixture was poured onto approximately 1000 g of ice containing 100 ml of concentrated hydrochloric acid. The resulting suspension was separated by decantation and washed several times with water. The organic layer was distilled to remove excess fluorobenzene and the solid residue collected by filtration, washed with water, and dried at 100° C. The crude solid was recrystallized from approximately 2000 ml of toluene to afford 70.7 g (88% yield) of 1,4-bis(4-fluorobenzoyl)-benzene; mp 218.5°-219.5° C.; Anal. Calcd for C20H12F2O2 : C, 74.53%; H, 3.75%; F, 11.179%. Found: C, 74.60%; H, 3.80%; F, 11.83%.

reactant | aluminum chloride | 0.60 mol, 80.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | terephthaloyl chloride | 0.25 mol, 50.8 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | fluorobenzene | 2.5 mol, 235 ml | FC1=CC=CC=C1 | C6H5F
reactant | hydrochloric acid | Cl | ClH
product | 1,4-bis(4-fluorobenzoyl)-benzene | 70.7 g, 88% yield | FC1=CC=C(C(=O)C2=CC=C(C=C2)C(C2=CC=C(C=C2)F)=O)C=C1 | C20H12F2O2
